US07572809B2
A 2.0˜5.0 mL process vial was charged with trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester (56.2 mg, 1 mmol), Pd(OAc)2 (4 mg), Mo(CO)6 (26.4 mg), morpholine (26.0 mg), DBU (45 mg), and dry THF (2 mL). The vial was immediately capped under air and heated at 150° C. for 15 min under microwave irradiation. After cooling, the reaction mixture was filtered through a short silica gel column, and the solvent was removed under reduced pressure. The residue was sent to prep-HPLC to give 5 mg of [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-morpholin-4-yl-methanone as a yellow solid. LC-MS m/e 396 (MH+).

reactant | trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester | 1 mmol, 56.2 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC1=NNC(=C1)C | C17H17F3N4O4S
reactant | morpholine | 26.0 mg | N1CCOCC1 | C4H9NO
reactant | DBU | 45 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-morpholin-4-yl-methanone | 5 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)N1CCOCC1)NC1=NNC(=C1)C | C21H25N5O3
